datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][S+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O][C:20]([O]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"[O-:21][C:20]2([NH+:10](C)C(C7=C2C=CC=C7)C)C>>[NH:10](C)C(C(C=CC=C9)=C9[C:20](C)=[O:21])C 21=20;20,10=10"
"[H][S:10]C([H])C(C)C([H])[S][C:20]([S]CC)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C([H])C(C)C([H])[S]1)[C:20]1([O:21][H])[S]CC 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH]C8=CC=CC=C8)[O][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[O][H] 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([NH:21][H])[O][CH](CC)C([H])[CH]([H])[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C([H])[O]2.C[O:10][H] 21=20;20,10=10"
"CC1C(O[C:20](N1C1=CC=CC=C1)([O-:10])[Cl:21])CC>>CC1C(O[C:20](=[O:10])N1C1=CC=CC=C1)CC.[Cl-:21] 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH]C([H])C([H])[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21][H])[NH]C([H])C([H])[O]1 10=20;20,21=21"
"[H][O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C([H])[S]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21][H])[O][CH](C7=CC=CC=C7)C(C)[CH]([H])[S]1 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[S]C.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C(C8=CC=CC=C8)[O][C:20]([S]C)=[O+:21]C 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C(C)[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](C)C([H])[CH](C)[O]1 10=20;20,21=21"
"CN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)C)C1=CC=CC=C1)[O-:10])CC>>CN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)C)C1=CC=CC=C1)CC 10=20;20,21=21"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)[H])CC)C>>CCCCCCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)[H])CC)[O-:10])C 21=20;20,10=10"
"[OH:21][C:20]1(OCC)C(C)=C(C)C(C)C([H])[OH+:10]1>>[OH:10]C([H])C(C)/C(C)=C(C)\[C:20](OCC)=[OH+:21] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]C)[NH][CH](C)C([H])[CH](C)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C(C)[NH]2.[H][O:10][H] 21=20;20,10=10"
"[O-:10]C(C)C(C)C([C:20]([H])=[O:21])[H]>>[O-:21][C:20]1([H])[O:10]C(C)C(C)C1[H] 10=20;20,21=21"
"[O-:21][C:20]1(C)C(O)C([H])C([H])C(C)[O+:10]1([Na])>>[O:10]([Na])C(C)C([H])C([H])C(O)[C:20](C)=[O:21] 21=20;20,10=10"
"[O-:21][C:20]2([NH+:10](CC)C(C=CC=C3)=C3C2[H])OCC>>[NH:10](CC)C1=C(C([H])[C:20](OCC)=[O:21])C=CC=C1 21=20;20,10=10"
"[H][O+:10](C(CC)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21][H])[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C8=CC=CC=C8)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21][H] 21=20;20,10=10"
"CC[S+:10]([H])[C:20]1([O:21][H])[O][CH](CC)C(C)[CH](C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](CC)[CH](C)C(C8=CC=CC=C8)[S]2.CC[S:10][H] 21=20;20,10=10"
"CC[S:10][H].[H][O+:21]=[C:20]([S]C)[S]C.[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]([O:21][H])([S]C)[S]C 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[Cl:21])CC)CCCCCC>>[H]C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CC)CCCCCC.[Cl-:21] 10=20;20,21=21"
"[NH:10]([H])C(C)C([H])C(C)C(O)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(O)C(C)C([H])C(C)[NH+:10]1([H]) 10=20;20,21=21"
"[O-:10]C(CC)C(C)C(O)C(C)[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(C)C(O)C(C)C(CC)[O:10]1 10=20;20,21=21"
"[O:10]([Na])C(C)/C([H])=C([H])\C([H])[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C([H])C([H])=C([H])C(C)[O+:10]1([Na]) 10=20;20,21=21"
"C9=CC=CC=C9[O:10][H].[H][O+:21]=[C:20]([O]C8=CC=CC=C8)[S][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([O:21][H])([O]C8=CC=CC=C8)[S][H] 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C([H])C([H])[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C([H])C([H])[O]2.C[O:10][H] 21=20;20,10=10"
"[H][O:10]C([H])C(C)C(C)[NH][C:20]([O]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)C(C)[NH]1)[C:20]1([NH:21]C)[O]C 10=20;20,21=21"
"[H][O:10]C([H])C(CC)[O][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C([H])C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC 10=20;20,21=21"
"[H][NH+:10](C(C)C(C)C([H])[NH]1)[C:20]1([NH:21]CC)[O][H].[Cl-]>>[Cl-].[H][NH:10]C(C)C(C)C([H])[NH][C:20]([O][H])=[NH+:21]CC 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(C)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C7=CC=CC=C7)C(C)[CH](C)[NH]1 10=20;20,21=21"
"[H][S+:10](C(CC)C([H])C(C)[S]1)[C:20]1([O:21][H])[O]C.[Cl-]>>[Cl-].[H][S:10]C(CC)C([H])C(C)[S][C:20]([O]C)=[O+:21][H] 21=20;20,10=10"
"[H][O:10]C([H])C([H])C(CC)[O][C:20]([O]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C(CC)[O]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"CCCCCCN([C:20](=[O:10])OC(C([O-:21])C1=CC=CC=C1)C1=CC=CC=C1)CC>>CCCCCCN([C:20]1(OC(C([O:21]1)C1=CC=CC=C1)C1=CC=CC=C1)[O-:10])CC 21=20;20,10=10"
"[H]N([C:20]1(OC(C(C([O:21]1)[H])CCCCCC)CCCCCC)[O-:10])CC>>[H]N([C:20](=[O:10])OC(C(C([O-:21])[H])CCCCCC)CCCCCC)CC 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C([H])[NH]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C)C([H])[CH]([H])[NH]1 10=20;20,21=21"
